US06326386B1
3-[2-(Benzyloxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid methyl ester
A solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid methyl ester (0.950 g) in dichloromethane (16 ml) and trifluoroacetic acid (4 ml) was stored at room temperature for 1 h. The solution was concentrated in vacuo and residual trifluoroacetic acid removed by co-evaporation with further dichloromethane. The residue was dissolved in dichloromethane (20 ml) and the solution stirred with saturated aqueous sodium bicarbonate (25 ml). Benzyl chloroformate (0.394 ml) was added to the bi-phasic mixture and stirring continued for 20 h. The aqueous layer was removed and the organic layer washed with 1M aqueous hydrochloric acid, saturated aqueous sodium bicarbonate, water and dried with brine and over sodium sulphate and concentrated under reduced pressure. The residue was purified by flash column chromatography, eluting with ethyl acetate:petroleum ether (3:1 v/v), to give the title compound as a colourless gum (0.32 g).

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid methyl ester | 0.950 g | COC(C1=CC(=CC(=C1)Cl)OCCN(C1=CC=NC=C1)C(=O)OC(C)(C)C)=O | C20H23ClN2O5
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[2-(Benzyloxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid methyl ester | 0.32 g | COC(C1=CC(=CC(=C1)Cl)OCCN(C1=CC=NC=C1)C(=O)OCC1=CC=CC=C1)=O | C23H21ClN2O5
